US05112966
A solution of (3S,4S)-4-(1-phenylthio-1-ethoxycarbonylethyl)- 3-(1-(R)-p-nitrobenzyloxycarbonyloxyethyl)-2-azetidinone (2.0 g) in dry dichloromethane (50 ml) was treated with m-chloroperbenzoic acid (0.69 g) for 3 hours while ice-cooling. The reaction mixture was washed successively with a saturated sodium bicarbonate solution and brine, and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue which was dissolved in toluene (18 ml). The toluene solution was stirred under reflux for 1 hour and concentrated in vacuo. An oily residue was purified by silica gel chromatography to yield (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-p-nitrobenzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-phenylthio-1-ethoxycarbonylethyl)- 3-(1-(R)-p-nitrobenzyloxycarbonyloxyethyl)-2-azetidinone | 2.0 g | C1(=CC=CC=C1)SC(C)(C(=O)OCC)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C24H26N2O8S
reactant | m-chloroperbenzoic acid | 0.69 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | (3S,4S)-4-(1-ethoxycarbonylethenyl)-3-(1-(R)-p-nitrobenzyloxycarbonyloxyethyl)-2-azetidinone | C(C)OC(=O)C(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O8
